US06255307B1
1. 5-Formyl-2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine
Diisobutylaluminium hydride (1.5 M in toluene) (2.12 ml, 3.18×10−3 mole) was added dropwise at 0° C. under nitrogen to a suspension of 5-Cyano-2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine (0.5 g, 1.59×10−3 mole) in dry toluene (70 ml) and the reaction was stirred at 0° C. for 1 hr. A further one equivalent of diisobutylaluminium hydride was then added and the mixture again stirred at 0° C. for 1 hr. Methanol (1 ml) was added carefully at 0° C. under nitrogen to destroy excess hydride and the reaction was warmed to room temperature. Ethyl acetate (100 ml) was added and the solution was washed with 5% citric acid solution (2×100 ml). The organic layer was separated, washed with brine (100 ml), dried over magnesium sulphate, filtered and the filtrate evaporated in vacuo to give the desired product. Yield 0.340 g (67%), N.m.r. (D6DMSO) δ: 7.53 (1H, d), 7.91 (1H, d), 6.90-7.80 (4H, b), 9.49 (1H, s).

reactant | Diisobutylaluminium hydride | 3.18×10−3 mole, 1.5 M, 2.12 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 5-Cyano-2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine | 1.59×10−3 mole, 0.5 g | C(#N)C=1N=C(C(=NC1N)N)C1=C(C(=CC(=C1)Cl)Cl)Cl | C11H6Cl3N5
reactant | diisobutylaluminium hydride | one equivalent | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Methanol | 1 ml | CO | CH4O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Formyl-2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine | C(=O)C=1N=C(C(=NC1N)N)C1=C(C(=CC(=C1)Cl)Cl)Cl | C11H7Cl3N4O
